US07795283B2
Intermediate 37: 1-Acetyl-4-(2-methyl-4-nitrophenyl)piperazine
1-Butyl-3-methylimidazolium hexafluorophosphate (1.75 g, 7.7 mmol) and acetyl piperazine (39.7 g, 309.4 mmol) was added to a stirred solution of 2-fluoro-5-nitrotoluene (12 g, 77.4 mmol) in MeCN (3 mL) and heated to 85° C. for 2 h. The reaction was cooled and concentrated in vacuo. Water (100 mL) was added to the resulting residue and the reaction extracted with EtOAc (3×100 mL). The solvent was dried (MgSO4), filtered, and concentrated in vacuo to yield the product as a yellow solid which was triturated with isohexane and dried in vacuo at 60° C.; 1H NMR δ 8.05 (2H, m), 7.14 (1H, d), 3.64-3.58 (4H, m), 3.05-2.94 (4H, m), 2.37 (3H, s), 2.37 (3H, s); MS m/e MH+ 264.

reactant | 1-Butyl-3-methylimidazolium hexafluorophosphate | 7.7 mmol, 1.75 g | F[P-](F)(F)(F)(F)F.C(CCC)[N+]1=CN(C=C1)C
reactant | acetyl piperazine | 309.4 mmol, 39.7 g | C(C)(=O)N1CCNCC1 | C6H12N2O
reactant | 2-fluoro-5-nitrotoluene | 77.4 mmol, 12 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
solvent | MeCN | 3 mL | CC#N | C2H3N
product | 1-Acetyl-4-(2-methyl-4-nitrophenyl)piperazine | C(C)(=O)N1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C | C13H17N3O3
